US03998889
To 1.38 g. of 3-butenyltributyltin was added 0.936 g. of 2,4-dinitrobenzene sulfenyl chloride in 20 ml. glacial acetic acid at steam bath temperature. The reaction mixture was warmed on the steam bath for 20 minutes, poured into ice water and filtered. The mixture was extracted with pentane, dried and recrystallized from ethanol to yield cyclopropylcarbinyl 2,4-dinitrophenyl sulfide; m.p. 80° -81° C. Analysis for C and H confirmed the composition of the reaction product.

reactant | 2,4-dinitrobenzene sulfenyl chloride | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SCl | C6H3ClN2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-dinitrophenyl sulfide | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C12H6N4O8S
